US07371743B2
(c) 1-(5-chloro-1H-benzimidazol-2-yl)-1-phenyl-methylamine
1.34 g (4.47 mmol) N-acetyl-1-(5-chloro-1H-benzimidazol-2-yl)-1-phenyl-methylamine in 9 ml of ethanol are combined with 18 ml of conc. hydrochloric acid and heated to 50° C. for 2 days. The reaction mixture is evaporated down i. vac. and twice taken up in ethanol and evaporated down again.

reactant | N-acetyl-1-(5-chloro-1H-benzimidazol-2-yl)-1-phenyl-methylamine | 4.47 mmol, 1.34 g | C(C)(=O)NC(C1=CC=CC=C1)C1=NC2=C(N1)C=CC(=C2)Cl | C16H14ClN3O
reactant | hydrochloric acid | 18 ml | Cl | ClH
solvent | ethanol | 9 ml | C(C)O | C2H6O
product | 1-(5-chloro-1H-benzimidazol-2-yl)-1-phenyl-methylamine | ClC1=CC2=C(NC(=N2)C(C2=CC=CC=C2)N)C=C1 | C14H12ClN3
